US06992095B2
(a) Ethyl 6-hydroxymethylnicotinate.
45.77 g (205 mmol) of ethyl 2,5-pyridine-dicarboxylate was dissolved in 410 ml of absolute ethanol in a one-liter round-bottomed flask. The reaction medium was cooled to −5° C. and 5.04 g (133.2 mmol) of sodium borohydride was added, followed by portionwise addition of 14.79 g (133.2 mmol) of calcium chloride, while keeping the temperature below −5° C. The reaction medium was stirred at −5° C. for two hours and poured into water. The product was extracted with ethyl ether and washed with water and the organic phase was then dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica eluted with ethyl ether, in order to obtain 31.33 g (84%) of a white crystalline solid.

reactant | ethyl 2,5-pyridine-dicarboxylate | 205 mmol, 45.77 g | N1=C(C=CC(=C1)C(=O)[O-])C(=O)OCC
reactant | sodium borohydride | 133.2 mmol, 5.04 g | [BH4-].[Na+]
reactant | calcium chloride | 133.2 mmol, 14.79 g | [Cl-].[Ca+2].[Cl-]
reactant | water | O | H2O
reactant | ethanol | 410 ml | C(C)O | C2H6O
product | Ethyl 6-hydroxymethylnicotinate | 31.33 g, 84% | OCC1=NC=C(C(=O)OCC)C=C1 | C9H11NO3
